US08357693B2
A mixture of 2-(3-(benzyloxy)phenyl)-4-chloro-7-methoxy-6-(2-methoxyethoxy)quinazoline (1.55 g, 3.44 mmol) and tert-butyl 5-amino-1H-indazole-1-carboxylate (0.842 g, 3.61 mmol) in iso-propanol (100 mL) was heated at 95° C. for 2 h, upon which the an additional aliquot of tert-butyl 5-amino-1H-indazole-1-carboxylate (0.100 g, 0.43 mmol) was added. Stirring was continued at 95° C. for a further 3 h upon which a third aliquot of tert-butyl 5-amino-1H-indazole-1-carboxylate (0.050 g, 0.22 mmol) was added. Stirring was continued at 95° C. for a further 1 h upon which the mixture was allowed to cool to RT and the precipitate was collected via filtration. The solid was washed with iso-propanol and dried under vacuum to give tert-butyl 5-(2-(3-(benzyloxy)phenyl)-7-methoxy-6-(2-methoxyethoxy)quinazolin-4-ylamino)-1H-indazole-1-carboxylate (2.35 g, 3.44 mmol, 100%). MS 648 (M+1). HPLC retention time 7.79 mins.

reactant | 2-(3-(benzyloxy)phenyl)-4-chloro-7-methoxy-6-(2-methoxyethoxy)quinazoline | 3.44 mmol, 1.55 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=NC2=CC(=C(C=C2C(=N1)Cl)OCCOC)OC | C25H23ClN2O4
reactant | tert-butyl 5-amino-1H-indazole-1-carboxylate | 3.61 mmol, 0.842 g | NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C12H15N3O2
reactant | tert-butyl 5-amino-1H-indazole-1-carboxylate | 0.43 mmol, 0.100 g | NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C12H15N3O2
solvent | iso-propanol | 100 mL | C(C)(C)O | C3H8O
catalyst | tert-butyl 5-amino-1H-indazole-1-carboxylate | 0.22 mmol, 0.050 g | NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C12H15N3O2
product | tert-butyl 5-(2-(3-(benzyloxy)phenyl)-7-methoxy-6-(2-methoxyethoxy)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | 3.44 mmol, 2.35 g, 100% | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=NC2=CC(=C(C=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C)OCCOC)OC | C37H37N5O6
